US07713993B2
(2) Synthesis of 3-(4-fluorobenzyl)-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazole
A solution of 2-(4-fluorobenzyl)-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazole (65 mg) and ammonium acetate (256 mg) in acetic acid (1 mL) was stirred at 150° C. for four hours. The reaction solution was left to cool to room temperature and concentrated under reduced pressure. Ethyl acetate and saturated sodium bicarbonate water were added to the residue, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate->ethyl acetate:methanol=5:1). The resulting solid was suspended in diethyl ether and collected by filtration to obtain 40 mg of the title compound. The property values of the compound are as follows.

reactant | 2-(4-fluorobenzyl)-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazole | 65 mg | FC1=CC=C(CC=2OC(=NN2)\C=C\C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C=C1 | C22H19FN4O2
reactant | ammonium acetate | 256 mg | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 3-(4-fluorobenzyl)-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazole | 40 mg | FC1=CC=C(CC2=NN=C(N2)\C=C\C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C=C1 | C22H20FN5O
